US06187926B1
Process for Producing 4-Quinolone
2-Aminoacetophenone (7.0 g, 52 mmol) was added to and dissolved in 1,4-dioxane (100 ml). To the solution obtained was added sodium methoxide (8.4 g, 156 mmol), and the mixture was stirred at room temperature for 30 minutes. Ethyl formate (21 ml, 261 mmol) was then added, and the mixture was stirred at room temperature for an additional 125 minutes. After adding water (5 ml) to the reaction solution, and stirring for 10 minutes, 10% hydrochloric acid was added to the mixture for neutralization. The reaction solution was then concentrated under reduced pressure. The residue was suspended in chloroform (100 ml), collected by filtration, washed with chloroform (100 ml), and then purified by silica gel column chromatography to give 4.5 g of the desired compound (yield 60%).

reactant | 2-Aminoacetophenone | 52 mmol, 7.0 g | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | sodium methoxide | 156 mmol, 8.4 g | C[O-].[Na+]
reactant | Ethyl formate | 261 mmol, 21 ml | C(=O)OCC | C3H6O2
reactant | hydrochloric acid | Cl | ClH
reactant | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | 4-Quinolone | 4.5 g, yield 60% | N1=CCC(C2=CC=CC=C12)=O | C9H7NO
